* NGSPICE test bench for Electronics 365 Practical 2
* ------------------------------------------------------------------
* Author:	Coenrad Fourie & Tessa Hall
* Last Mod:	30 August 2020
* ------------------------------------------------------------------
* INFO: Practical 2 Feedback Amplifier will plug into this testbench
* for analysis. It must pass all checks for full marks.
* ------------------------------------------------------------------
* THIS TEST BENCH IS ONLY FOR STUDENT NUMBERS ENDING IN 4 OR 9!!!
* ------------------------------------------------------------------

* Student amplifier is subckt "diffamp" in file "yourstudentnumber.cir" - Use your student number
.include yourstudentnumber.cir

* ================== FEEDBACK AMPLIFIER ==================
* Pins: Sig	Out	Supply	[subckt name]
Xamp	in	out	nvcc	feedamp

* DC Voltage Supply
VCC     NVCC   0        DC     10

* Input Signal
VS      IN	0      0    AC    1     0      

.control

*  Do ac analysis at single frequency (1 kHz in this case)
  AC    DEC     1  1k   1k

*  Measure ac magnitudes at 1 kHz
  meas ac vo_magn max v(out) AT=1k
  meas ac ix_magn max i(v.xamp.vri) AT=1k
  meas ac vx_magn max v(xamp.nin) AT=1k
  let avf = vo_magn/1
  let rif = vx_magn/(ix_magn)
  echo
  echo Closed-loop voltage gain Avf = "$&avf"
  echo Input resistance = "$&rif" Ohm

* Determine and print out mark
  let mark = 0 
  if avf >= 13.5
      if avf <= 13.6
        let mark = mark + 1
      end
  end
  if rif >= 17.7
      if rif <= 18.1
        let mark = mark + 1
      end
  end
  echo
  echo FINAL MARK = "$&mark"
  echo

.endc
.end