* NGSPICE test bench for Electronics 365 Practical 4
* -------------------------------------------------------------------
* Author:	Coenrad Fourie & Tessa Hall
* Last Mod:	18 October 2020
* -------------------------------------------------------------------
* INFO: Practical 4 Filter will plug into this testbench
* for analysis. It must pass all checks for full marks.
* -------------------------------------------------------------------
* THIS TEST BENCH IS ONLY FOR STUDENT NUMBERS ENDING IN 0, 6 OR 8!!!
* -------------------------------------------------------------------

* Student circuit is subckt "filt" in file "yourstudentnumber.cir" - Use your student number
.include yourstudentnumber.cir

* ================== FEEDBACK AMPLIFIER ==================
Xcircuit in out vcc vee filt 

* DC Voltage Supply
VCC     vcc    0       DC   15
VEE     vee    0       DC   -15
Vi1     in     0       0    AC    1     0

.control
  ac  DEC  101   1 100k
  meas ac v10  find vdb(out) at=100
  meas ac v100 find vdb(out) at=100
  meas ac v1000 find vdb(out) at=1000
  meas ac v2000 find vdb(out) at=2000
  plot vdb(out)

  let mark = 0 
  if v2000 < v1000
    if (v100 - 0.1) < v10
      if (v100 + 0.1) > v10
        if (v100 - 2.1) > v1000
          if (v100 - 3.1) < v1000
            let mark = mark + 1
          end
        end
      end
    end
  end 

  let dBdrop = v100-v1000
  echo dB dropped at cutoff frequency = "$&dBdrop"

  let Av = 10^(v100/20)
  echo Av = "$&Av"
  if Av > 7.95
    if Av < 8.05
      let mark = mark + 1
    end
  end

  echo
  echo FINAL MARK = "$&mark"

.endc